US06337423B1
Under a nitrogen atmosphere, 2,6-dimethyl-4-(octyloxy)-aniline (7.2 mmols) was dissolved in 50 mL dichloromethane. To this was added DIPEA (9.4 mmols). The reaction mixture was cooled in an ice bath, and chloroacetyl chloride (7.95 mmoles) dissolved in 50 mL dichloromethane was added by dropping funnel. After the addition was complete, the reaction was stirred at room until reaction was complete by TLC (approximately 0.5 hours). The reaction mixture was concentrated, and partitioned between ethyl acetate and water. The organic layer was washed with saturated NaHCO3(×2), brine, dried over MgSO4, and filtered (rinsing with ethyl acetate). The filtrate was concentrated to yield 2-chloro-N-(2,6-dimethyl-4-octyloxyphenyl)-acetamide as a white solid (1.21 grams; 51%). The product was characterized by NMR (DMSO).

reactant | 2,6-dimethyl-4-(octyloxy)-aniline | 7.2 mmols | CC1=C(N)C(=CC(=C1)OCCCCCCCC)C | C16H27NO
reactant | DIPEA | 9.4 mmols | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 7.95 mmoles | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-chloro-N-(2,6-dimethyl-4-octyloxyphenyl)-acetamide | ClCC(=O)NC1=C(C=C(C=C1C)OCCCCCCCC)C | C18H28ClNO2
